US06949542B2
4-[3-(4-Oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-phenyl]-pyridine-2-carbonitrile
The title compound was prepared from (2-{3-[3-(2-cyano-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example M180) (304 mg, 0.58 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a white solid (147 mg, 62%).

reactant | (2-{3-[3-(2-cyano-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.58 mmol, 304 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C#N)=O)=O | C27H23F3N4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(4-Oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-phenyl]-pyridine-2-carbonitrile | O=C1NC2=C(N=C(C1)C=1C=C(C=CC1)C1=CC(=NC=C1)C#N)C=CC(=C2)C(F)(F)F | C22H13F3N4O
